*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 3.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_0 1 2 3 4 REF
C_C1 1 REF 0.3281586982894pf
C_C2 1 2 17.12680656098pf
C_C3 1 3 0.0127984787546pf
C_C4 1 4 0.2356244461751pf
C_C5 2 REF 0.5571662946169pf
C_C6 2 3 0.1114923418968pf
C_C7 3 REF 0.4487345631457pf
C_C8 3 4 7.6494116736909pf
C_C9 4 REF 0.441852289635pf
L_L1 3 5 1.2998449833138nh
R_RL1 5 4 -3.091138205e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_1 1 2 3 4 REF
C_C1 1 REF 0.3259480314243pf
C_C2 1 2 17.29490245869pf
C_C3 1 3 0.0130992722077pf
C_C4 1 4 0.2374852825475pf
C_C5 2 REF 0.5590532173332pf
C_C6 2 3 0.1112511775238pf
C_C7 3 REF 0.448532034363pf
C_C8 3 4 5.6055886699497pf
C_C9 4 REF 0.4420469150875pf
L_L1 3 5 1.3014967235967nh
R_RL1 5 4 7.1401533205e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_2 1 2 3 4 REF
C_C1 1 REF 0.3229020512542pf
C_C2 1 2 17.482306380634pf
C_C3 1 3 0.0137759329509pf
C_C4 1 4 0.2388262622439pf
C_C5 2 REF 0.559818223165pf
C_C6 2 3 0.1106981776176pf
C_C7 3 REF 0.4482645830456pf
C_C8 3 4 4.1667262054549pf
C_C9 4 REF 0.4422892328662pf
L_L1 3 5 1.3028838776375nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_3 1 2 3 4 REF
C_C1 1 REF 0.319116924374pf
C_C2 1 2 17.748091712229pf
C_C3 1 3 0.0144638025654pf
C_C4 1 4 0.2405391340192pf
C_C5 2 REF 0.5605462262878pf
C_C6 2 3 0.1101615560772pf
C_C7 3 REF 0.4479856927377pf
C_C8 3 4 2.9158364172029pf
C_C9 4 REF 0.4425283263209pf
L_L1 3 5 1.3043022408594nh
R_RL1 5 4 -8.99998704e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_4 1 2 3 4 REF
C_C1 1 REF 0.3152775149163pf
C_C2 1 2 18.109003634582pf
C_C3 1 3 0.0139104075349pf
C_C4 1 4 0.2438856153192pf
C_C5 2 REF 0.5619301448749pf
C_C6 2 3 0.1108374553898pf
C_C7 3 REF 0.4478225877978pf
C_C8 3 4 1.9102896651025pf
C_C9 4 REF 0.4426433145311pf
L_L1 3 5 1.3057237221782nh
R_RL1 5 4 -1.560359087e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_5 1 2 3 4 REF
C_C1 1 REF 0.312152603826pf
C_C2 1 2 18.523533693424pf
C_C3 1 3 0.0115190427343pf
C_C4 1 4 0.2491618050515pf
C_C5 2 REF 0.5641789006228pf
C_C6 2 3 0.1132917397373pf
C_C7 3 REF 0.4478146706927pf
C_C8 3 4 1.2572909804951pf
C_C9 4 REF 0.4426049977691pf
L_L1 3 5 1.3068497810741nh
R_RL1 5 4 -1.701530709e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_6 1 2 3 4 REF
C_C1 1 REF 0.3093467780102pf
C_C2 1 2 18.996808410821pf
C_C3 1 4 0.255547923812pf
C_C4 2 REF 0.5673306248651pf
C_C5 2 3 0.1165247820964pf
C_C6 3 REF 0.447855613275pf
C_C7 3 4 0.8296927133597pf
C_C8 4 REF 0.4425184319393pf
L_L1 3 5 1.3077331760069nh
R_RL1 5 4 2.533744555e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_7 1 2 3 4 REF
C_C1 1 REF 0.3058661400546pf
C_C2 1 2 19.636333295131pf
C_C3 1 4 0.2631313758293pf
C_C4 2 REF 0.572152168497pf
C_C5 2 3 0.1197420474876pf
C_C6 3 REF 0.4478714896048pf
C_C7 3 4 0.5113462945503pf
C_C8 4 REF 0.442447267925pf
L_L1 3 5 1.3085093486883nh
R_RL1 5 4 -8.003984112e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_8 1 2 3 4 REF
C_C1 1 REF 0.3011018493847pf
C_C2 1 2 20.484074453917pf
C_C3 1 4 0.2717634101145pf
C_C4 2 REF 0.5789259940935pf
C_C5 2 3 0.1223429148439pf
C_C6 3 REF 0.4478275831991pf
C_C7 3 4 0.2857032941577pf
C_C8 4 REF 0.4424233940713pf
L_L1 3 5 1.3091821423411nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_9 1 2 3 4 REF
C_C1 1 REF 0.294212282502pf
C_C2 1 2 21.627430937035pf
C_C3 1 4 0.2829470515889pf
C_C4 2 REF 0.5881068067267pf
C_C5 2 3 0.1251320214793pf
C_C6 3 REF 0.4477306520847pf
C_C7 3 4 0.1339242545359pf
C_C8 4 REF 0.4424356130705pf
L_L1 3 5 1.3097253642615nh
R_RL1 5 4 6.9367612014e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_10 1 2 3 4 REF
C_C1 1 REF 0.2844489649484pf
C_C2 1 2 23.16076469133pf
C_C3 1 4 0.29864585711pf
C_C4 2 REF 0.6000603650472pf
C_C5 2 3 0.129468221966pf
C_C6 3 REF 0.4476002901697pf
C_C7 3 4 0.0326705754354pf
C_C8 4 REF 0.4424635901612pf
L_L1 1 5 98.145319821468nh
R_RL1 5 2 1.4839309447125
L_L2 3 6 1.3101502926503nh
R_RL2 6 4 1.2115436402e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_11 1 2 3 4 REF
C_C1 1 REF 0.270483447266pf
C_C2 1 2 25.276847857088pf
C_C3 1 4 0.3213042054122pf
C_C4 2 REF 0.6159034724002pf
C_C5 2 3 0.1365162219324pf
C_C6 3 REF 0.4474380504283pf
C_C7 4 REF 0.4425080861852pf
L_L1 1 5 60.957787933455nh
R_RL1 5 2 -0.024226983223
L_L2 3 6 1.3102376287878nh
R_RL2 6 4 2.0497165337e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_12 1 2 3 4 REF
C_C1 1 REF 0.2506369616167pf
C_C2 1 2 28.227388046949pf
C_C3 1 4 0.3534593562531pf
C_C4 2 REF 0.6372978590568pf
C_C5 2 3 0.147078883363pf
C_C6 3 REF 0.4472364703984pf
C_C7 4 REF 0.4425877672527pf
L_L1 1 5 37.329502043125nh
R_RL1 5 2 0.0095213426465
L_L2 3 6 1.3100516795187nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_13 1 2 3 4 REF
C_C1 1 REF 0.221348117899pf
C_C2 1 2 32.540323505184pf
C_C3 1 4 0.4004222967754pf
C_C4 2 REF 0.667944336874pf
C_C5 2 3 0.1626813080489pf
C_C6 3 REF 0.446979321475pf
C_C7 4 REF 0.4427404198761pf
L_L1 1 5 22.52478981292nh
R_RL1 5 2 0.0752165295548
L_L2 3 6 1.3097217396293nh
R_RL2 6 4 -3.033722282e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_14 1 2 3 4 REF
C_C1 1 REF 0.1767787938419pf
C_C2 1 2 39.074132500628pf
C_C3 1 4 0.4712982555539pf
C_C4 2 REF 0.7139127787016pf
C_C5 2 3 0.1862129820731pf
C_C6 3 REF 0.4466421350112pf
C_C7 4 REF 0.4430319679221pf
L_L1 1 5 13.283730387973nh
R_RL1 5 2 0.1185407890234
L_L2 3 6 1.30922731901nh
R_RL2 6 4 -5.142130522e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_15 1 2 3 4 REF
C_C1 1 REF 0.1030416835179pf
C_C2 1 2 49.849541298551pf
C_C3 1 4 0.5878765795432pf
C_C4 2 REF 0.7893473268905pf
C_C5 2 3 0.2248192809597pf
C_C6 3 REF 0.4461697030262pf
C_C7 4 REF 0.4436099237219pf
L_L1 1 5 7.5523636311474nh
R_RL1 5 2 -0.223778415544
L_L2 3 6 1.3083992346033nh
R_RL2 6 4 2.4856301934e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_16 1 2 3 4 REF
C_C1 1 2 71.255741813508pf
C_C2 1 4 0.8191689315706pf
C_C3 2 REF 0.9387023115808pf
C_C4 2 3 0.3012395243329pf
C_C5 3 REF 0.4453848671331pf
C_C6 4 REF 0.4449294739323pf
L_L1 1 5 3.1191914464276nh
R_RL1 5 2 -0.01553688715
L_L2 3 6 1.3068136325673nh
R_RL2 6 4 -4.0848277e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_17 1 2 3 4 REF
C_C1 1 2 125.27800697611pf
C_C2 1 4 1.4027400654954pf
C_C3 2 REF 1.31440568417pf
C_C4 2 3 0.4938613869343pf
C_C5 3 REF 0.4437336000645pf
C_C6 4 REF 0.4486220498558pf
L_L1 1 5 1.1722091295244nh
R_RL1 5 2 -4.838059961e-3
L_L2 1 6 53.1583813732nh
R_RL2 6 3 -3.482198703e-3
L_L3 1 7 52.434781356695nh
R_RL3 7 4 -3.488650946e-3
L_L4 2 8 53.261024176346nh
R_RL4 8 3 -1.771476553e-4
L_L5 2 9 52.540618142198nh
R_RL5 9 4 -1.328333677e-4
L_L6 3 10 1.3029448014812nh
R_RL6 10 4 -1.16351911e-4
Kn_K1 L_L1 L_L2 0.0677468804041
Kn_K2 L_L1 L_L3 0.0680090325903
Kn_K3 L_L1 L_L4 -0.080671929523
Kn_K4 L_L1 L_L5 -0.081426603961
Kn_K5 L_L2 L_L3 0.9876838995853
Kn_K6 L_L2 L_L4 0.988985465869
Kn_K7 L_L2 L_L5 0.9765694572914
Kn_K8 L_L2 L_L6 -0.121752344851
Kn_K9 L_L3 L_L4 0.9766423475649
Kn_K10 L_L3 L_L5 0.988833989885
Kn_K11 L_L3 L_L6 0.0350456699736
Kn_K12 L_L4 L_L5 0.9877079196365
Kn_K13 L_L4 L_L6 -0.121443264241
Kn_K14 L_L5 L_L6 0.035203369908
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_18 1 2 3 4 REF
C_C1 1 2 365.65061468552pf
C_C2 1 4 3.9998790485328pf
C_C3 2 REF 2.9814491978806pf
C_C4 2 3 1.3510737878786pf
C_C5 3 REF 0.437402017186pf
C_C6 4 REF 0.4661771176073pf
R_R1 1 2 848.26865836786
L_L1 1 5 33.694145033804nh
R_RL1 5 REF 0.0171111994076
L_L2 1 6 0.2710813747763nh
R_RL2 6 2 -8.83038997e-4
L_L3 1 7 14.590272730984nh
R_RL3 7 3 -6.323529026e-4
L_L4 1 8 13.916435170611nh
R_RL4 8 4 -5.695716371e-4
L_L5 2 9 33.50140403385nh
R_RL5 9 REF 0.0160373019041
L_L6 2 10 14.64492291446nh
R_RL6 10 3 -1.548288027e-4
L_L7 2 11 13.97540242165nh
R_RL7 11 4 -5.57015507e-5
L_L8 3 12 47.966227826761nh
R_RL8 12 REF 0.0172767783049
L_L9 3 13 1.2859014071856nh
R_RL9 13 4 -1.90398967e-4
L_L10 4 14 47.283889345905nh
R_RL10 14 REF 0.0173250798047
Kn_K1 L_L1 L_L2 0.0767352017437
Kn_K2 L_L1 L_L5 0.9959698809409
Kn_K3 L_L1 L_L8 0.8341688259596
Kn_K4 L_L1 L_L10 0.8400595889716
Kn_K5 L_L2 L_L3 0.0544137064655
Kn_K6 L_L2 L_L4 0.0546041626243
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08174034313
Kn_K9 L_L2 L_L7 -0.084784396337
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9551581532289
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.990729298617
Kn_K15 L_L3 L_L7 0.9455625720016
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.226220882234
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9459452857627
Kn_K21 L_L4 L_L7 0.9902831913828
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0723433966247
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8334792547889
Kn_K26 L_L5 L_L10 0.839310520358
Kn_K27 L_L6 L_L7 0.9553317768927
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.225300989098
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0726997956613
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1253073121674
Kn_K35 L_L8 L_L10 0.9865250528777
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_19 1 2 3 4 REF
C_C1 1 REF 19.266701612247pf
C_C2 1 3 9.7711355933041pf
C_C3 2 4 29.417776322544pf
C_C4 3 REF 0.5130564258301pf
C_C5 4 REF 0.2350660298062pf
R_R1 1 2 -102.1687029433
L_L1 1 5 3.1881024726472nh
R_RL1 5 REF 2.1827921678e-4
L_L2 1 6 0.1483137033071nh
R_RL2 6 2 0.0031909332657
L_L3 1 7 2.1848458089117nh
R_RL3 7 3 0.0012350756758
L_L4 1 8 1.6431709174963nh
R_RL4 8 4 0.0019855800811
L_L5 2 9 3.3020826504722nh
R_RL5 9 REF 0.0036204064611
L_L6 2 10 2.1533508868055nh
R_RL6 10 3 2.8505030126e-4
L_L7 2 11 1.5813056972606nh
R_RL7 11 4 1.2692360207e-4
L_L8 3 12 5.3637965958291nh
R_RL8 12 REF 0.0016031281342
L_L9 3 13 1.124660373067nh
R_RL9 13 4 -1.280511966e-4
L_L10 4 14 4.8292279208718nh
R_RL10 14 REF 0.002381071601
Kn_K1 L_L1 L_L2 0.0249650033834
Kn_K2 L_L1 L_L5 0.977298722636
Kn_K3 L_L1 L_L8 0.7698501536848
Kn_K4 L_L1 L_L10 0.8122466741949
Kn_K5 L_L2 L_L3 0.1579354016824
Kn_K6 L_L2 L_L4 0.2128762241126
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.103355747872
Kn_K9 L_L2 L_L7 -0.089254233353
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0371807138163
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7133809957349
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9658375835158
Kn_K16 L_L3 L_L7 0.6788334166675
Kn_K17 L_L3 L_L8 0.9299550141578
Kn_K18 L_L3 L_L9 -0.531509824635
Kn_K19 L_L3 L_L10 0.9811686907967
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6627113663551
Kn_K22 L_L4 L_L7 0.954179426529
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2144251276629
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.017182613379
Kn_K27 L_L5 L_L7 0.0118508689436
Kn_K28 L_L5 L_L8 0.7737301350613
Kn_K29 L_L5 L_L10 0.8201226500703
Kn_K30 L_L6 L_L7 0.7072037609413
Kn_K31 L_L6 L_L8 0.9581336210857
Kn_K32 L_L6 L_L9 -0.545140426516
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2071925823162
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3377765533287
Kn_K38 L_L8 L_L10 0.8908897326435
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_20 1 2 3 4 REF
C_C1 1 2 1513.3846509529pf
C_C2 1 4 16.402339915467pf
C_C3 2 REF 10.93746539647pf
C_C4 2 3 5.4452532238456pf
C_C5 3 REF 0.4079565869451pf
C_C6 4 REF 0.5508779268936pf
R_R1 1 2 167.08273918912
L_L1 1 5 4.8001214342006nh
R_RL1 5 REF 4.0985840674e-4
L_L2 1 6 0.0306279874985nh
R_RL2 6 2 -1.180298638e-4
L_L3 1 7 2.9024228612866nh
R_RL3 7 3 -1.603050232e-4
L_L4 1 8 2.2964723975562nh
R_RL4 8 4 -8.305303541e-5
L_L5 2 9 4.7647324832663nh
R_RL5 9 REF 2.895393808e-4
L_L6 2 10 2.914053957923nh
R_RL6 10 3 -1.184288742e-4
L_L7 2 11 2.3146179985166nh
R_RL7 11 4 -1.726846842e-5
L_L8 3 12 7.6591762552541nh
R_RL8 12 REF 2.6114568078e-4
L_L9 3 13 1.1789610346279nh
R_RL9 13 4 -1.872844927e-4
L_L10 4 14 7.0465556901328nh
R_RL10 14 REF 3.3535960721e-4
Kn_K1 L_L1 L_L2 0.0860874891829
Kn_K2 L_L1 L_L5 0.9968046842079
Kn_K3 L_L1 L_L8 0.7880771910804
Kn_K4 L_L1 L_L10 0.8210472096561
Kn_K5 L_L2 L_L3 0.0318575929105
Kn_K6 L_L2 L_L4 0.0235330266148
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.07072648254
Kn_K9 L_L2 L_L7 -0.091591636818
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.017141247459
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7785347343578
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9947362603837
Kn_K16 L_L3 L_L7 0.7718123923426
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.482454790106
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7745668508111
Kn_K22 L_L4 L_L7 0.9933654475948
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.174121458994
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7871066770257
Kn_K27 L_L5 L_L10 0.8194711224069
Kn_K28 L_L6 L_L7 0.7796605683797
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.479733669104
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.175409393763
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2981026522825
Kn_K36 L_L8 L_L10 0.9206290252534
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_21 1 2 3 4 REF
C_C1 1 2 118.10627449747pf
C_C2 1 4 1.3244486261727pf
C_C3 2 REF 1.2766271384471pf
C_C4 2 3 0.4674731846826pf
C_C5 3 REF 0.4417247183152pf
C_C6 4 REF 0.4456208840952pf
L_L1 1 5 0.2773972127614nh
R_RL1 5 2 -9.690747575e-4
L_L2 1 6 27.034965171247nh
R_RL2 6 3 -5.911669595e-4
L_L3 1 7 26.303735732531nh
R_RL3 7 4 -5.649556233e-4
L_L4 2 8 27.255802844835nh
R_RL4 8 3 -1.545577487e-4
L_L5 2 9 26.533097956122nh
R_RL5 9 4 -9.833233104e-5
L_L6 3 10 1.2940655704438nh
R_RL6 10 4 -7.903912042e-5
Kn_K1 L_L1 L_L2 0.010326708379
Kn_K2 L_L1 L_L4 -0.090599041236
Kn_K3 L_L1 L_L5 -0.093395687219
Kn_K4 L_L2 L_L3 0.9758304160356
Kn_K5 L_L2 L_L4 0.9948987578672
Kn_K6 L_L2 L_L5 0.9705476455397
Kn_K7 L_L2 L_L6 -0.171205317073
Kn_K8 L_L3 L_L4 0.9709720929505
Kn_K9 L_L3 L_L5 0.9947593000052
Kn_K10 L_L3 L_L6 0.0482353146921
Kn_K11 L_L4 L_L5 0.9760298760104
Kn_K12 L_L4 L_L6 -0.169792633688
Kn_K13 L_L5 L_L6 0.0487537733329
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_22 1 2 3 4 REF
C_C1 1 REF 0.2083686601261pf
C_C2 1 2 37.616281713196pf
C_C3 1 4 0.4541091176804pf
C_C4 2 REF 0.724046362467pf
C_C5 2 3 0.1795115460402pf
C_C6 3 REF 0.4428124953654pf
C_C7 4 REF 0.4385710488002pf
L_L1 1 5 0.6916024439154nh
R_RL1 5 2 -4.173105652e-3
L_L2 1 6 92.703215135447nh
R_RL2 6 3 -4.113477355e-3
L_L3 1 7 91.728627283036nh
R_RL3 7 4 -4.167326376e-3
L_L4 2 8 93.825513131988nh
R_RL4 8 3 -0.011764039082
L_L5 2 9 92.858799501803nh
R_RL5 9 4 -0.011719866618
L_L6 3 10 1.3015115892714nh
R_RL6 10 4 1.5332534746e-4
Kn_K1 L_L1 L_L2 -0.026894577965
Kn_K2 L_L1 L_L3 -0.027531380926
Kn_K3 L_L1 L_L4 -0.112588677247
Kn_K4 L_L1 L_L5 -0.113664506303
Kn_K5 L_L2 L_L3 0.9929569932346
Kn_K6 L_L2 L_L4 0.9963102811004
Kn_K7 L_L2 L_L5 0.9892169540311
Kn_K8 L_L2 L_L6 -0.103607171725
Kn_K9 L_L3 L_L4 0.9893641966686
Kn_K10 L_L3 L_L5 0.996271926679
Kn_K11 L_L3 L_L6 0.0149602892943
Kn_K12 L_L4 L_L5 0.9930415898997
Kn_K13 L_L4 L_L6 -0.102629375274
Kn_K14 L_L5 L_L6 0.0152271019001
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_23 1 2 3 4 REF
C_C1 1 REF 0.3557032178371pf
C_C2 1 2 17.195586932351pf
C_C3 1 3 0.0330659431674pf
C_C4 1 4 0.2325433256852pf
C_C5 2 REF 0.5887282662771pf
C_C6 2 3 0.105315809373pf
C_C7 3 REF 0.4422007239976pf
C_C8 4 REF 0.4357735214699pf
L_L1 1 5 1.0486788343265nh
R_RL1 5 2 -4.013101668e-3
L_L2 3 6 1.3016353645171nh
R_RL2 6 4 3.441928141e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_24 1 2 3 4 REF
C_C1 1 REF 0.4135555197565pf
C_C2 1 2 9.8738141971517pf
C_C3 1 3 0.0645512689778pf
C_C4 1 4 0.1518895136231pf
C_C5 2 REF 0.5456148755321pf
C_C6 2 3 0.0769853666373pf
C_C7 3 REF 0.4409998423316pf
C_C8 4 REF 0.433652372732pf
L_L1 1 5 1.6002808700766nh
R_RL1 5 2 1.4139157484e-4
L_L2 3 6 1.2995196665635nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_25 1 2 3 4 REF
C_C1 1 REF 0.4437367842275pf
C_C2 1 2 6.8063213384182pf
C_C3 1 3 0.0831777873748pf
C_C4 1 4 0.1160689686178pf
C_C5 2 REF 0.5340457324949pf
C_C6 2 3 0.0623393167307pf
C_C7 2 4 0.0395724342901pf
C_C8 3 REF 0.4393094517854pf
C_C9 4 REF 0.4314054680081pf
L_L1 1 5 1.8140753003496nh
R_RL1 5 2 -2.578721738e-4
L_L2 3 6 1.296844361713nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_26 1 2 3 4 REF
C_C1 1 REF 0.4573198629198pf
C_C2 1 2 5.8630623627601pf
C_C3 1 3 0.0935485976107pf
C_C4 1 4 0.1030151504477pf
C_C5 2 REF 0.5352740685769pf
C_C6 2 3 0.0551481953467pf
C_C7 2 4 0.0559773554597pf
C_C8 3 REF 0.4379033668355pf
C_C9 4 REF 0.4296945798529pf
L_L1 1 5 1.9122221372333nh
R_RL1 5 2 8.243709016e-5
L_L2 3 6 1.2957028347428nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param23_26

